US07528262B2
1-(4-Benzyloxyphenyl)-5-methoxy-2-methoxymethyl-1H-indole.
[1-(4-Benzyloxyphenyl)-5-methoxy-1H-indol-2-yl]methanol (0.2 g, 0.56 mmol) was dissolved in acetonitrile (2 mL), and iodomethane (0.35 mL, 5.6 mmol) and silver(I) oxide (0.39 g, 1.68 mmol) were added. The mixture was stirred overnight at 40° C., then cooled to room temperature and filtered through a pad of Celite. The filtrate was concentrated. SiO2 chromatography with 3-50% ethyl acetate/hexanes gave 0.16 g (77% yield) of the desired product. LC-MS (C24H23NO3 calc'd 373) m/z 374 (M+H).

reactant | [1-(4-Benzyloxyphenyl)-5-methoxy-1H-indol-2-yl]methanol | 0.56 mmol, 0.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)OC)CO | C23H21NO3
reactant | iodomethane | 5.6 mmol, 0.35 mL | IC | CH3I
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | silver(I) oxide | 1.68 mmol, 0.39 g | [Ag-]=O
product | 1-(4-Benzyloxyphenyl)-5-methoxy-2-methoxymethyl-1H-indole | 0.16 g, 77% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)OC)COC | C24H23NO3
